US09102673B2
To a solution of 5-phenyl-1H-pyrazole-3-carboxylic acid methyl ester (250 mg, 1.236 mmole) in THF (5 mL) was added NaH (60% dispersion in mineral oil, 60 mg, 1.500 mmole) portionwise at RT. After gas evolution had ceased SEMCl (0.263 mL, 1.484 mmol) was added. After stirring overnight the mixture was diluted with EtOAc, filtered through a pad of Celite washing with EtOAc, and concentrated. Flash column (Biotage-SNAP-25 g SiO2, 0-20% EtOAc/hexanes) gave methyl 5-phenyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-3-carboxylate (380 mg, 92%) as a clear oil. 1H NMR (399 MHz, CDCl3): δ 7.64 (dd, J=7.3, 1.9 Hz, 3 H); 7.46 (d, J=7.4 Hz, 3 H); 6.94 (s, 1 H); 5.49 (s, 2 H); 3.96 (s, 3 H); 3.80-3.71 (m, 3 H); 0.97-0.88 (m, 2 H); 0.02 (s, 9H).

reactant | 5-phenyl-1H-pyrazole-3-carboxylic acid methyl ester | 1.236 mmole, 250 mg | COC(=O)C1=NNC(=C1)C1=CC=CC=C1 | C11H10N2O2
reactant | NaH | 1.500 mmole, 60 mg | [H-].[Na+]
reactant | SEMCl | 1.484 mmol, 0.263 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 5-phenyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazole-3-carboxylate | 380 mg, 92% | C1(=CC=CC=C1)C1=CC(=NN1COCC[Si](C)(C)C)C(=O)OC | C17H24N2O3Si
